US07456164B2
4-{4-[4-(3-Pyrrolidin-1-yl-propoxy)phenyl]tetrahydropyran-4-ylmethyl}piperazine-1-carboxylic acid ethyl ester
4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbaldehyde (500 mg, 1.58 mmol), ethyl piperazine-1-carboxylate (471 mg, 3.00 mmol), absolute ethanol (20 ml), activated 3 Å molecular sieves (500 mg), titanium (IV) isopropoxide (2.31 ml, 7.88 mmol) and STAB (2.84 g, 13.6 mmol) were reacted in accordance with the general procedure D. The isolated crude product was purified by column chromatography on silica eluting with DCM:MeOH:NH3 (97:2:1) to give the title compound as a white solid containing residual 4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbaldehyde (350 mg). The material was dissolved in DCM (14 ml) and PS-AMPS (loading 2.04 mmol-1 g, 23 mg) was added and shaken for 24 hours. The resin was filtered and the solution concentrated in vacuo at 30° C., the crude material was subjected to chromatography on silica eluting with DCM:MeOH:NH3 (97:2:1) to give the title compound as a white solid (130 mg, 18%). 1H NMR (400 MHz, CDCl3) δ 7.20 (d, 2H), 6.86 (d, 2H), 4.08 (q, 2H), 4.02 (t, 2H), 3.79-3.70 (m, 2H), 3.57-3.47 (m, 2H), 3.27 (br s, 4H), 2.63 (t, 2H), 2.53 (br s, 4H), 2.38 (s, 2H), 2.21-1.73 (m, 14H), 1.21 (t, 3H).

reactant | 4-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]tetrahydro-2H-pyran-4-carbaldehyde | 1.58 mmol, 500 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)C=O | C19H27NO3
reactant | ethyl piperazine-1-carboxylate | 3.00 mmol, 471 mg | N1(CCNCC1)C(=O)OCC | C7H14N2O2
catalyst | titanium (IV) isopropoxide | 7.88 mmol, 2.31 ml | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-{4-[4-(3-Pyrrolidin-1-yl-propoxy)phenyl]tetrahydropyran-4-ylmethyl}piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)CC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1 | C26H41N3O4
